US05880135
4-(2-Chloro-4-methoxyphenyl)-5-methyl-2-[N-(1-methylindol-5-yl)-N-propylamino]thiazole.
0.045 g of 55% sodium hydride in oil and then 0.12 ml of methyl iodide are added, at 4° C., to 0.39 g of 4-(2-chloro-4-methoxyphenyl)-5-methyl-2-[N-(indol-5-yl)-N-propylamino]thiazole obtained above (EXAMPLE 7) in solution in 5 ml of dimethylformamide. After stirring for 5 hours at room temperature, the reaction mixture is poured into ice-cold water. The mixture is extracted with ethyl acetate and the organic phase is washed a number of times with water, dried over sodium sulphate and evaporated to dryness. The residue is purified by chromatography on a column of silica gel eluted with a 9/1 (v/v) cyclohexane/ethyl acetate mixture. The expected product is isolated in the form of a white solid; M.p.=146° C. 1H NMR (CDCl3): 0.92 (m, 3H), 1.58-1.73 (m, 2H), 2.01 (s, 3H), 3.81-4.0 (m, 8H), 6.51 (d, J=2.8, 1H), 6.85 (dd, J=2.2, 8.4, 1H), 6.99 (d, J=2.0, 1H), 7.09-7.20 (m, 2H), 7.35-7.40 (m, 2H), 7.62 (s, 1H).

reactant | sodium hydride | 0.045 g | [H-].[Na+]
reactant | methyl iodide | 0.12 ml | CI | CH3I
reactant | 4-(2-chloro-4-methoxyphenyl)-5-methyl-2-[N-(indol-5-yl)-N-propylamino]thiazole | 0.39 g | ClC1=C(C=CC(=C1)OC)C=1N=C(SC1C)N(CCC)C=1C=C2C=CNC2=CC1 | C22H22ClN3OS
solvent | dimethylformamide | 5 ml | CN(C=O)C | C3H7NO
product | 4-(2-Chloro-4-methoxyphenyl)-5-methyl-2-[N-(1-methylindol-5-yl)-N-propylamino]thiazole | ClC1=C(C=CC(=C1)OC)C=1N=C(SC1C)N(CCC)C=1C=C2C=CN(C2=CC1)C | C23H24ClN3OS
